US05750531
Step 2: 5-Methyl-6-ethyl-2-(2-methyl-4-fluorophenylamino)-4-(1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride
After 4-fluoro-2-methylaniline(0.5 ml, 3.6 mmol) was added to a mixture solution of 5-methyl-6-ethyl-4-(1,2,3,4-tetrahydroisoquinolin-2-yl)-2-chloropyrimidine(0.7 g, 2.4 mmol) and dimethylformamide(5 ml), 0.53 g of the titled compound was obtained in accordance with the same procedure as in Step 2 of Example 1.

reactant | 4-fluoro-2-methylaniline | 3.6 mmol, 0.5 ml | FC1=CC(=C(N)C=C1)C | C7H8FN
reactant | 5-methyl-6-ethyl-4-(1,2,3,4-tetrahydroisoquinolin-2-yl)-2-chloropyrimidine | 2.4 mmol, 0.7 g | CC=1C(=NC(=NC1CC)Cl)N1CC2=CC=CC=C2CC1 | C16H18ClN3
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 5-Methyl-6-ethyl-2-(2-methyl-4-fluorophenylamino)-4-(1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride | 0.53 g, Yield: 53.5% | Cl.CC=1C(=NC(=NC1CC)NC1=C(C=C(C=C1)F)C)N1CC2=CC=CC=C2CC1 | InChI=1S/C23H25FN4.ClH/c1-4-20-16(3)22(28-12-11-17-7-5-6-8-18(17)14-28)27-23(25-20)26-21-10-9-19(24)13-15(21)2;/h5-10,13H,4,11-12,14H2,1-3H3,(H,25,26,27);1H
